US04717416
23 g of 3,7-dichloroquinoline-8-carbaldehyde and 20 g of 2,4-dinitrophenylhydrazine in 500 ml of ethanol were heated at 80° C. for 5 hours. Water was added to the reaction mixture, and the precipitated solid was filtered off under suction and recrystallized from dimethylformamide to give 34 g (85% of theory) of 3,7-dichloro-8-(2,4-dinitrophenylhydrazono)-quinoline of melting point >280° C.

reactant | 3,7-dichloroquinoline-8-carbaldehyde | 23 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
reactant | 2,4-dinitrophenylhydrazine | 20 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN | C6H6N4O4
reactant | Water | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3,7-dichloro-8-(2,4-dinitrophenylhydrazono)-quinoline | 34 g, 85% | ClC=1C=NC=2C(C(C=CC2C1)Cl)=NNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H9Cl2N5O4
